US05843975
1.4. 2-Fluoro-4-(phenylmethoxy)benzonitrile
15.2 ml (0.127 mol) of benzyl bromide and 29.3 g (0.212 mol) of potassium carbonate are added to a solution of 13.3 g (0.106 mol) of 2-fluoro-4-hydroxybenzonitrile in 150 ml of acetonitrile. The mixture is stirred at reflux for 1 hour 30 minutes and then filtered, the filtrate is concentrated under reduced pressure, and the oil obtained is diluted in the minimum amount of dichloromethane. After crystallization by addition of diisopropyl ether, filtration and drying, 20.3 g of product are obtained. Melting point : 87° C.

reactant | benzyl bromide | 0.127 mol, 15.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.212 mol, 29.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-4-hydroxybenzonitrile | 0.106 mol, 13.3 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Fluoro-4-(phenylmethoxy)benzonitrile | 20.3 g | FC1=C(C#N)C=CC(=C1)OCC1=CC=CC=C1 | C14H10FNO
